US08278316B2
6-(4-fluorobenzylthio)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one
A mixture of 6-chloro-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one Part A of procedure 11 (20 mg, 0.06 mmol), (4-fluorophenyl)methanethiol (26 mg, 0.18 mmol), and potassium carbonate (25.5 mg, 0.185 mmol) in THF (0.5 mL) was stirred at 70° C. overnight. The reaction was diluted with CH2Cl2, filtered, and concentrated. The crude product was purified using HPLC (Phen Luna Axia C18 5μ 10:90:0.1 to 90:10:0.1 MeOH—H2O-TFA) to afford the desired product 6-(4-fluorobenzylthio)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one H-3 (17.25 mg, 0.038 mmol, 61.8% yield) as off-white solid. LC/MS 431 (M+H)+, tR 0.91 min (method 5). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.14 (1H, s), 7.35-7.45 (2H, m), 6.95-7.09 (3H, m), 6.80-6.90 (2H, m), 6.49 (1H, s), 4.28 (2H, s), 3.88 (5H, s), 1.39 (6H, s)

reactant | 6-chloro-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one | ClC1=CC(N(C=N1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C15H17ClN2O4
reactant | (4-fluorophenyl)methanethiol | 0.18 mmol, 26 mg | FC1=CC=C(C=C1)CS | C7H7FS
reactant | potassium carbonate | 0.185 mmol, 25.5 mg | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-(4-fluorobenzylthio)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one | 0.038 mmol, 17.25 mg, 61.8% yield | FC1=CC=C(CSC2=CC(N(C=N2)C2=CC(=C(C=C2)OCC(C)(C)O)OC)=O)C=C1 | C22H23FN2O4S
